US05919782
2-Hydroxymethyl-4-(pyridin-2-yl)morpholine:
The title compound (33.0 g, 72%) was prepared as a thick liquid from 2-chloropyridine (54.32 g) and 2-hydroxymethyl morpholine (28.0 g) by a similar procedure to that described in preparation 1.

reactant | 2-chloropyridine | 54.32 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | 2-hydroxymethyl morpholine | 28.0 g | OCC1CNCCO1 | C5H11NO2
product | 2-Hydroxymethyl-4-(pyridin-2-yl)morpholine | 33.0 g, 72% | OCC1CN(CCO1)C1=NC=CC=C1 | C10H14N2O2
